US06632810B2
Synthesis of N,N′-bis(1-methyl-4,5,6-trimethoxyindole-2-carbonyl)homopiperazine:
N-Methyl-4,5,6-trimethoxyindole-2-carboxylic acid (130 mg) and homopiperazine (24 mg) were reacted in the same manner as in Preparation Example 37 to obtain the title compound.

reactant | N-Methyl-4,5,6-trimethoxyindole-2-carboxylic acid | 130 mg | CN1C(=CC2=C(C(=C(C=C12)OC)OC)OC)C(=O)O | C13H15NO5
reactant | homopiperazine | 24 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis(1-methyl-4,5,6-trimethoxyindole-2-carbonyl)homopiperazine | CN1C(=CC2=C(C(=C(C=C12)OC)OC)OC)C(=O)N1CCN(CCC1)C(=O)C=1N(C2=CC(=C(C(=C2C1)OC)OC)OC)C | C31H38N4O8
